US05637554
A solution of 15 g (0.0769 mol) of 4-methyl-5H-indeno[3,2-b]pyridin-5-one in 150 ml of methanol was treated in portions with 3.8 g (0.1 mol) of NaBH4 at from 0° to -5° C. After stirring at room temperature for 14 hours, the mixture was concentrated under reduced pressure. The residue was treated with 350 ml of methylene chloride and with 150 ml of a 15% strength aqueous potassium hydroxide solution and additionally stirred for 1 hour. The organic phase was separated off, washed with water, dried over Na2SO4 and concentrated to a volume of 50 ml under reduced pressure. The crystal magma was filtered off with suction at 0° C. and washed with a little diethyl ether and pentane. 9.4 g (62% of theory) of 4-methyl-5H-indeno[3,2-b]pyridin-5-ol were obtained as yellowish crystals of m.p. 154°-156° C.

reactant | 4-methyl-5H-indeno[3,2-b]pyridin-5-one | 0.0769 mol, 15 g | CC1=C2C(=NC=C1)C=1C=CC=CC1C2=O | C13H9NO
reactant | NaBH4 | 0.1 mol, 3.8 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 4-methyl-5H-indeno[3,2-b]pyridin-5-ol | 9.4 g, 62% | CC1=C2C(=NC=C1)C=1C=CC=CC1C2O | C13H11NO
